US06599902B2
Synthesis of 5-(2,6-Dimethyl-phenylmethanesulfonyl)-3-[1-[4-((3R,5S)-3,5-dimethyl-piperazine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of 5-[5-(2,6-dimethyl-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (120 mg, 0.26 mmol), (2R,6S)-2,6-dimethyl-piperazine (37 mg, 1.2 eq.), HOBt (50 mg, 1.2 eq.), EDAC.HCl (1.2 eq.) and TEA (3 eq.) in DMF (0.2 M) was stirred at rt for overnight. The reaction was concentrated, diluted with DCM, washed with water, filtered and concentrated to give the titled compound.

reactant | 5-[5-(2,6-dimethyl-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.26 mmol, 120 mg | CC1=C(C(=CC=C1)C)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C25H24N2O5S
reactant | (2R,6S)-2,6-dimethyl-piperazine | 37 mg, 1.2 eq. | C[C@H]1N[C@H](CNC1)C | C6H14N2
reactant | HOBt | 50 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 1.2 eq. | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
product | 5-(2,6-Dimethyl-phenylmethanesulfonyl)-3-[1-[4-((3R,5S)-3,5-dimethyl-piperazine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | CC1=C(C(=CC=C1)C)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1C[C@H](N[C@H](C1)C)C)C | C31H36N4O4S
